US08912218B2
1.1. 2-(5′-Bromo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)ethanol
An autoclave is charged with 11 g (46.43 mmol) of 2,5-dibromopyridine, 6 g (46.43 mmol) of piperidin-4-ylethanol and 6.74 g (48.76 mmol) of potassium carbonate in 8 ml of DMSO. This charge is subsequently heated at 160° C. for 20 hours.

reactant | 2,5-dibromopyridine | 46.43 mmol, 11 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | piperidin-4-ylethanol | 46.43 mmol, 6 g | N1CCC(CC1)C(C)O | C7H15NO
reactant | potassium carbonate | 48.76 mmol, 6.74 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 2-(5′-Bromo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)ethanol | BrC=1C=CC(=NC1)N1CCC(CC1)CCO | C12H17BrN2O
